US04472381
Glycyl-L-proline methylester hydrochloride (16.0 g, 72.1 m mole) was dissolved in methanol (150 ml), and Indan-2-on (4.75 g, 36.0 m mole) and triethylamine (1.8 g, 18.0 m mole) were added thereto. Sodium syanoborohydride (2.27 g, 36.0 m mole) was gradually added thereto while cooling with ice and stirring. The mixture was stirred for 1 hour while cooling with ice and next for 5 hours at room temperature. A little insoluble material was separated by filtration, and the filtrate was concentrated under reduced pressure. To the residue, water (100 ml) and ethyl ether (100 ml) were added, and the solution was adjusted to pH 1.5 with 6N hydrochloric acid while stirring to dissolve it. The ethyl ether layer was removed, and the remaining water layer was washed with ethyl ether (100 ml). The desired product was extracted from the water layer with chloroform (100 ml×3 times). The thus obtained chloroform as extracted was concentrated under reduced pressure until a tar-like residue was obtained. To thus produced tar-like residue ethyl ether and 5% sodium bicarbonate (200 ml) were added and the mixture was stirred to dissolve the solid matter. The aqueous layer was removed and the ethyl ether layer was washed with an aqueous solution saturated with sodium chloride. To the ethyl ether layer water (150 ml) was added, and the solution was adjusted to pH 1.5 with 6N hydrochloric acid while stirring and ethyl ether was removed. The water layer was washed with ethyl ether (100 ml) and to the water layer chloroform (200 ml) was added. The solution was adjusted to pH 8.0 with sodium bicarbonate while stirring. The aqueous layer was removed, and chloroform layer was dried with anhydrous sodium sulfate, and the sodium sulfate was separated by filtration. Separately, anhydrous hydrogen chloride gas was brown into the chloroform, and thus obtained hydrogen chloride chloroform solution was added to the above mentioned chloroform layer. After checking to ascertain that the pH of the solution had been preserved, a distillation was carried out under reduced pressure, to yield N-(2indanyl) glycyl-L-proline methylester hydrochloride (4.50 g, 13.3 m mole, yield: 37%).

reactant | Glycyl-L-proline methylester hydrochloride | 16.0 g | Cl.COC([C@H]1N(CCC1)C(CN)=O)=O
reactant | Indan-2-on | 4.75 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | Sodium | [Na] | Na
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
product | N-(2indanyl) glycyl-L-proline methylester hydrochloride | 4.50 g, yield: 37% | Cl.COC([C@H]1N(CCC1)C(CNC1CC2=CC=CC=C2C1)=O)=O | InChI=1S/C17H22N2O3.ClH/c1-22-17(21)15-7-4-8-19(15)16(20)11-18-14-9-12-5-2-3-6-13(12)10-14;/h2-3,5-6,14-15,18H,4,7-11H2,1H3;1H/t15-;/m0./s1
